parameters Ndiscmin0 = 0.011283390434401719 Ndiscmin1 = 0.008830614908596756 Ndiscmin2 = 0.00753827558820681 Ndiscmin3 = 0.010053753921131931 Ndiscmax0 = 18.701762200468398 Ndiscmax1 = 20.81114904332122 Ndiscmax2 = 19.337805613793883 Ndiscmax3 = 20.98600437234549 rnew0 = 4.184292862229879e-08 rnew1 = 4.429673795670812e-08 rnew2 = 4.5678836855639856e-08 rnew3 = 4.396707586306696e-08 lnew0 = 0.39042875091604606 lnew1 = 0.45532862472672625 lnew2 = 0.4055893880112367 lnew3 = 0.42407336869621676  eps = 17 epsphib = 5.5 Ndiscmin=0.008
subckt my_ckt r0 r1 c0 c1 
I0 (r0 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax0  Ndiscmin = Ndiscmin0  Ninit = Ndiscmin0  Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = rnew0 lcell = 3 ldet = 0.4 lnew = lnew0  Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I1 (r0 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax1  Ndiscmin = Ndiscmin1  Ninit = Ndiscmin1  Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = rnew1 lcell = 3 ldet = 0.4 lnew = lnew1  Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I2 (r1 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax2  Ndiscmin = Ndiscmin2  Ninit = Ndiscmin2  Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = rnew2 lcell = 3 ldet = 0.4 lnew = lnew2  Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I3 (r1 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax3  Ndiscmin = Ndiscmin3  Ninit = Ndiscmin3  Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = rnew3 lcell = 3 ldet = 0.4 lnew = lnew3  Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
ends my_ckt
XBAR (r0 r1 c0 c1 ) my_ckt
V0 (r0  0) vsource type=pulse val0=-2 val1=1.2 period=200n width=50n rise=25n fall=25n 
V1 (r1  0) vsource type=pulse val0=-1 val1=1.5 period=145n width=60n rise=35n fall=15n 
V2 (c0  0) vsource type=pulse val0=-3 val1=1.2 period=120n width=47n rise=12n fall=30n 
V3 (c1  0) vsource type=pulse val0=-0.4 val1=1.5 period=70n width=14n rise=47n fall=5n 

 save XBAR.I0:OE XBAR.I1:OE XBAR.I2:OE XBAR.I3:OE XBAR.I2:AE
ahdl_include "/net/home/zahr/Downloads/counterfeit/JART_VCM_1b_verilog-var.va"
trans tran stop=5u errpreset=conservative maxstep =1u write="spectre.ic" 		writefinal="spectre.fc" annotate=status maxiters=5
saveOptions options save=allpub